US04046900
16.5 g of 1-acetylisonipecotoyl chloride, Example 1(b) are slowly added to a stirring mixture of 60 ml of m-dimethoxybenzene and 20.0 g of aluminum chloride. Stirring is continued for 1 hour at ambient temperature and then for an additional 1 hour at about 100° C. The reaction mixture is allowed to cool to ambient temperature, poured into ice-water, and extracted with chloroform. The combined extracts are dried and the chloroform is removed leaving a yellow oil. The oil is triturated with hexane to effect a white solid which is collected and dried. Recrystallization from ethyl acetate yields colorless needles, mp 138°-140° C., 1-acetyl-4-(2-hydroxy-4-methoxybenzoyl)piperidine.

reactant | 1-acetylisonipecotoyl chloride | 16.5 g | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
reactant | aluminum chloride | 20.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | m-dimethoxybenzene | 60 ml | COC1=CC(=CC=C1)OC | C8H10O2
product | 1-acetyl-4-(2-hydroxy-4-methoxybenzoyl)piperidine | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)OC)O)=O | C15H19NO4
